US03998834
A solution of 378.5 parts of 1-(phenylmethyl)-4-piperidinone and 362.5 parts of 3-(trifluoromethyl)benzenamine in 1500 parts of acetic acid is stirred for 1 hour at room temperature: exothermic reaction (temperature rises to 40° C). After cooling, there are added 262.7 parts of potassium cyanide and the whole is stirred for 4 days at room temperature. The reaction mixture is poured onto a mixture of crushed ice and ammonium hyroxide and the product is extracted with trichloromethane. The extract is washed with a diluted ammonium hydroxide solution, dried, filtered and evaporated. The residue is crystallized from a mixture of 2,2'-oxybispropane and petroleum-ether (2:1 by volume), yielding 1-(phenylmethyl)-4-{[3-(trifluoromethyl)phenyl]amino}-4-piperidinecarbonitrile; mp. 96° C.

reactant | 1-(phenylmethyl)-4-piperidinone | C1(=CC=CC=C1)CN1CCC(CC1)=O | C12H15NO
reactant | 3-(trifluoromethyl)benzenamine | FC(C=1C=C(C=CC1)N)(F)F | C7H6F3N
reactant | potassium cyanide | [C-]#N.[K+]
reactant | ammonium hyroxide | [OH-].[NH4+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(phenylmethyl)-4-{[3-(trifluoromethyl)phenyl]amino}-4-piperidinecarbonitrile | C1(=CC=CC=C1)CN1CCC(CC1)(C#N)NC1=CC(=CC=C1)C(F)(F)F | C20H20F3N3
